US05536718
5-[(6-Chloro-3-pyridinyl)carbonyl]-5,10-dihydro-4H-pyrazolo[5,1-c][1,4]benzodiazepine
To a solution of 10 mmol of 5,10-dihydro-4H-pyrazolo[5,1-c][1,4]benzodiazepine and 1.5 g of triethylamine in 20 ml of dichloromethane is added a solution of 2.11 g of 6-chloropyridine-3-carbonyl chloride in 5 ml of dichloromethane. The mixture is stirred for 3 hours at room temperature diluted with 20 ml of dichloromethane and washed with 30 ml of 1N NaOH. The organic layer is washed twice with 20 ml of 1N NaOH, dried (Na2SO4) and the solvent removed. The residue is triturated with ether to give 3 g of solid.

reactant | 5,10-dihydro-4H-pyrazolo[5,1-c][1,4]benzodiazepine | 10 mmol | N1=CC=C2CNC3=C(CN21)C=CC=C3 | C11H11N3
reactant | triethylamine | 1.5 g | C(C)N(CC)CC | C6H15N
reactant | 6-chloropyridine-3-carbonyl chloride | 2.11 g | ClC1=CC=C(C=N1)C(=O)Cl | C6H3Cl2NO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 5-[(6-Chloro-3-pyridinyl)carbonyl]-5,10-dihydro-4H-pyrazolo[5,1-c][1,4]benzodiazepine | 3 g | ClC1=CC=C(C=N1)C(=O)N1CC=2N(CC3=C1C=CC=C3)N=CC2 | C17H13ClN4O
